US07381719B2
Add potassium tert-butoxide (4.28 g, 36.2 mmol) to a stirred solution of [2-(4-hydroxy-phenyl)-ethyl]-carbamic acid tert-butyl ester (6.40 g, 27.0 mmol) and anhydrous tetrahydrofuran (120 mL). Stir for 30 minutes under nitrogen at room temperature. Add 6-chloronicotinamide (4.27 g, 27.2 mmol) and heat to reflux for 18 h under nitrogen. Cool to room temperature, pour the reaction mixture into, brine (150 mL), and extract with diethyl ether (3×150 mL). Dry the diethyl ether extracts over magnesium sulfate, filter, and concentrate on a rotary evaporator to give the crude product. The crude product is purified by flash chromatography on silica gel eluting with 0.7% concentrated ammonium hydroxide/7% ethanol/chloroform to yield 4.46 g (46%) of {2-[4-(5-carbamoyl-pyridin-2-yloxy)-phenyl]-ethyl}-carbamic acid tert-butyl ester: mass spectrum (ion spray): m/z=358.1 (M+1); 1H NMR (DMSO-d6): 8.58 (d, 1H), 8.22 (dd, 1H), 8.02 (br s, 1H), 7.46 (br s, 1H), 7.23 (d, 2H), 7.06-7.02 (m, 3H), 6.92-6.89 (m, 1H), 3.17-3.12 (m, 2H), 2.69 (t, 2H), 1.35 (s, 9H).

reactant | potassium tert-butoxide | 36.2 mmol, 4.28 g | CC(C)([O-])C.[K+]
reactant | [2-(4-hydroxy-phenyl)-ethyl]-carbamic acid tert-butyl ester | 27.0 mmol, 6.40 g | C(C)(C)(C)OC(NCCC1=CC=C(C=C1)O)=O | C13H19NO3
reactant | tetrahydrofuran | 120 mL | O1CCCC1 | C4H8O
reactant | 6-chloronicotinamide | 27.2 mmol, 4.27 g | ClC1=NC=C(C(=O)N)C=C1 | C6H5ClN2O
solvent | brine | 150 mL | [Cl-].[Na+].O
product | {2-[4-(5-carbamoyl-pyridin-2-yloxy)-phenyl]-ethyl}-carbamic acid tert-butyl ester | 4.46 g, 46% | C(C)(C)(C)OC(NCCC1=CC=C(C=C1)OC1=NC=C(C=C1)C(N)=O)=O | C19H23N3O4
